US05731322
(±)-trans-2-Diethylaminocarbonyl-6-(2-furylmethyl)-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride
1.3 g (3.3 mmol) of (±)-trans-2-diethylaminocarbonyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline, 0.28 ml (4.95 mmol) of acetic acid, 0.33 ml (3.96 mmol) of 2-furaldehyde were dissolved in 50 ml of MeOH under nitrogen atmosphere. 0.415 g (6.6 mmol) of sodium cyanoborohydride were added and the solution stirred for 15 h. Additional acetic acid (0.1 ml), 2-furaldehyde (0.3 ml) and sodium cyanoborohydride (0.2 g) were added. After two hours of stirring the reaction mixture was cooled to 0° C. and 50 ml of 5N hydrochloric acid were added. The solvent was removed in vacuo, the aqueous solution was extracted with Et2O, the pH was adjusted to 8 with 20% NaOH and then extracted with AcOEt. The organic layer was dried over Na2SO4 and the solvent was removed in vacuo. The crude product was dissolved in acetone/MeOH and the solution brought to acidic pH with HCl/Et2O . The precipitate was filtered, yielding 1.7 g of the title compound. M.p.=105° C. dec.

reactant | (±)-trans-2-diethylaminocarbonyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 3.3 mmol, 1.3 g | C(C)N(C(=O)C1=C(C2=C(C[C@@]3(CCNC[C@H]3C2)C2=CC(=CC=C2)OC)N1)C)CC | C24H33N3O2
reactant | 2-furaldehyde | 3.96 mmol, 0.33 ml | O1C(=CC=C1)C=O | C5H4O2
reactant | sodium cyanoborohydride | 6.6 mmol, 0.415 g | C(#N)[BH3-].[Na+]
reactant | 2-furaldehyde | 0.3 ml | O1C(=CC=C1)C=O | C5H4O2
reactant | sodium cyanoborohydride | 0.2 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 5N, 50 ml | Cl | ClH
solvent | MeOH | 50 ml | CO | CH4O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4.95 mmol, 0.28 ml | C(C)(=O)O | C2H4O2
product | (±)-trans-2-Diethylaminocarbonyl-6-(2-furylmethyl)-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | 1.7 g | Cl.C(C)N(C(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC=2OC=CC2)C2=CC(=CC=C2)OC)N1)C)CC | InChI=1S/C29H37N3O3.ClH/c1-5-32(6-2)28(33)27-20(3)25-16-22-18-31(19-24-11-8-14-35-24)13-12-29(22,17-26(25)30-27)21-9-7-10-23(15-21)34-4;/h7-11,14-15,22,30H,5-6,12-13,16-19H2,1-4H3;1H/t22-,29+;/m1./s1
